US07615557B2
A solution of (R)-8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol (36.2 g) and pyridine (18.8 ml) in THF (850 ml) cooled at 0° C. was added phenyl chloroformate (28.8 ml). The mixture was stirred for 3 hours at room temperature, and then poured into ethylacetate. The mixture was washed with aqueous NH4Cl then with water, and the organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. To the obtained residue was added acetonitrile, and the precipitates were collected and washed with a mixture of acetonitrile and diisopropyl ether (2:3) to obtain phenyl [(R)-7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl]carbamate (33.0 g).

reactant | (R)-8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol | 36.2 g | NC=1C=CC=C2CC[C@H](CC12)O | C10H13NO
reactant | pyridine | 18.8 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 28.8 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | THF | 850 ml | C1CCOC1 | C4H8O
product | phenyl [(R)-7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl]carbamate | 33.0 g | O[C@@H]1CCC=2C=CC=C(C2C1)NC(OC1=CC=CC=C1)=O | C17H17NO3
